US04680297
4-Hydroxy-3-(3-hydroxypropyl)-1-(4-methoxyphenyl)-1,8-naphthyridin-2(1H)-one
A mixture of delta-valerolactone (120 ml.), ethyl 2-(4-methoxyphenylamino)nicotinate (12 g.) and potassium t-butoxide (24 g.) was stirred and heated in an atmosphere of nitrogen to 100° C. for 2 hrs. After cooling, the mixture was poured into 1000 ml. of 5% KOH solution and stirred overnight. The aqueous solution was extracted with ether (2×250 ml.) which was discarded. The aqueous solution was then acidified to pH 4.5 with conc. HCl. The product was filtered off, washed with water, dried in air and recrystallized from CHCl3 /isopropanol to yield the desired product, m.p. 229°-231° C.

reactant | ethyl 2-(4-methoxyphenylamino)nicotinate | 12 g | COC1=CC=C(C=C1)NC1=C(C(=O)OCC)C=CC=N1 | C15H16N2O3
reactant | potassium t-butoxide | 24 g | CC(C)([O-])C.[K+]
reactant | KOH | [OH-].[K+]
reactant | delta-valerolactone | 120 ml | C1(CCCCO1)=O | C5H8O2
product | 4-Hydroxy-3-(3-hydroxypropyl)-1-(4-methoxyphenyl)-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=C(C=C1)OC)=O)CCCO | C18H18N2O4
